US04431653
To 4-(3-cyanopropyl)-1-piperidinecarboxaldehyde (10 g, 0.055 M), there was added ethylenediamine p-toluenesulfonate (30 g, 0.129 M) and the mixture was heated at 200° C. for 41/2 hours. The reaction mixture was dissolved in ethanol (100 ml), basified with MeONa (0.26 M), filtered and stripped to dryness. The residue was distilled at 170° C., 0.025 mmHg to give 4-[3-(4,5-dihydro-1H-imidazol-2-yl)propyl]piperidine (7.86 g, 72% yield).

reactant | 4-(3-cyanopropyl)-1-piperidinecarboxaldehyde | 0.055 M, 10 g | C(#N)CCCC1CCN(CC1)C=O | C10H16N2O
reactant | ethylenediamine p-toluenesulfonate | 0.129 M, 30 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.C(CN)N
reactant | MeONa | 0.26 M | CO[Na]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 4-[3-(4,5-dihydro-1H-imidazol-2-yl)propyl]piperidine | 7.86 g, 72% yield | N1C(=NCC1)CCCC1CCNCC1 | C11H21N3
